US07250442B2
3-{5-[3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-2-oxo-2,3-dihydro-indol-1-ylmethyl]-[1,2,4]oxadiazol-3-yl}-benzoic acid methyl ester
Under an N2 atmosphere combine [3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-2-oxo-2,3-dihydro-indol-1-yl]-acetonitrile (0.501 g, 0.782 mmol), 3-[chloro(hydroxyimino)methyl]-benzoic acid methyl ester (1.17 g, 5.47 mmol), and diethyl ether (20 mL). Add a solution of triethylamine (0.84 mL, 6.02 mmol) in diethyl ether (10 mL) over 30 minutes. Stir the reaction at room temperature overnight. Dilute the reaction with ethyl acetate (200 mL) and water (200 mL). Separate the layers, and dry the organic layer with sodium sulfate. Concentrate in vacuo. Chromatograph on silica gel eluting with 20% ethyl acetate in hexanes and concentrate. Dissolve the resulting compound (0.124 g, 0.152 mmol) in THF (1 mL). Add a solution of tetrabutylammonium fluoride (1.0 M) in THF (0.38 mL) and stir the reaction at room temperature for 30 minutes. Add 1N aqueous HCl(10 mL), ethyl acetate (50 mL), and water (40 mL). Separate the layers and wash the organic layer with brine (50 mL). Dry the ethyl acetate with sodium sulfate, and concentrate in vacuo. Chromatograph on silica gel eluting with a gradient from 25% to 50% ethyl acetate in hexanes to give 0.037 g of the title compound: mass spectrum (ion spray): m/z=590(M+1); 1H NMR(DMSO-d6): δ8.24 (s, 2H), 8.10-8.03 (m, 4H), 7.29-7.25 (m, 2H), 7.17 (d, 1H), 7.09 (t, 1H) 6.71 (s, 1H), 5.48 (s, 2H), 3.87 (s, 3H), 2.04 (s, 12H).

reactant | [3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-2-oxo-2,3-dihydro-indol-1-yl]-acetonitrile | 0.782 mmol, 0.501 g | OC1=C(C=C(C=C1C)C1(C(N(C2=CC=CC=C12)CC#N)=O)C1=CC(=C(C(=C1)C)O)C)C | C26H24N2O3
reactant | 3-[chloro(hydroxyimino)methyl]-benzoic acid methyl ester | 5.47 mmol, 1.17 g | COC(C1=CC(=CC=C1)C(=NO)Cl)=O | C9H8ClNO3
reactant | triethylamine | 6.02 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.38 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | water | 40 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3-{5-[3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-2-oxo-2,3-dihydro-indol-1-ylmethyl]-[1,2,4]oxadiazol-3-yl}-benzoic acid methyl ester | 0.037 g | COC(C1=CC(=CC=C1)C1=NOC(=N1)CN1C(C(C2=CC=CC=C12)(C1=CC(=C(C(=C1)C)O)C)C1=CC(=C(C(=C1)C)O)C)=O)=O | C35H31N3O6
